US06762320B2
c) N-[3-Fluoro-4-(3-fluoro-benzyloxy)-phenyl]-malonamic acid methyl ester
The title compound is prepared in analogy to example 1 from 3-fluoro-4-(3-fluoro-benzyloxy)-phenylamine and chlorocarbonyl-acetic acid methyl ester. Yield: 65%. Light yellow solid. MS: m/e=336.2 (M++H).

reactant | 3-fluoro-4-(3-fluoro-benzyloxy)-phenylamine | FC=1C=C(C=CC1OCC1=CC(=CC=C1)F)N | C13H11F2NO
reactant | chlorocarbonyl-acetic acid methyl ester | COC(CC(=O)Cl)=O | C4H5ClO3
product | N-[3-Fluoro-4-(3-fluoro-benzyloxy)-phenyl]-malonamic acid methyl ester | Yield: 65% | COC(CC(=O)NC1=CC(=C(C=C1)OCC1=CC(=CC=C1)F)F)=O | C17H15F2NO4
